US05254549
A solution of 14.6 g (37.38 mmol) of 3-(4-acetoxy-3,5-di-tert-butylphenyl)-l-(tetrahydropyran-2-yloxy)propane in 80 ml of anhydrous methanol is stirred together with 1 g of amberlyst 15 (H+ -form) for 2 hours at 45° C. and maintained at room temperature overnight. After dilution of the suspension with 100 ml of methanol, the catalyst is removed by filtration and the filtrate evaporated at reduced pressure leaving 11.53 g of crude product, which is purified by flashchromatography over silica gel with H/AcOEt 3:1 as the eluent. 6.96 g (61%) of 3-(4-acetoxy-3,5-di-tert-butylphenyl)propanol is isolated from the product-containing fractions as a faintly yellowish oil, which gradually crystallizes upon standing, m.p. 93°-95° C. (C19H30O3 ; F. W. 306.4).

reactant | 3-(4-acetoxy-3,5-di-tert-butylphenyl)-l-(tetrahydropyran-2-yloxy)propane | 37.38 mmol, 14.6 g | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)CCCOC1OCCCC1)C(C)(C)C | C24H38O4
solvent | methanol | 80 ml | CO | CH4O
product | 3-(4-acetoxy-3,5-di-tert-butylphenyl)propanol | 6.96 g, 61% | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)CCCO)C(C)(C)C | C19H30O3
